US06727274B2
A freshly prepared solution of sodium cyanoborohydride (0.91 g, 14.48 mmol) in CH3OH (3.0 mL) was added dropwise to a 0° C. solution of (3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-3-amine (1.02 g, 2.99 mmol) in TFA (7.5 mL), then stirred at room temperature for 3 hours. The reaction was diluted with H2O (40 mL) cooled to 0° C. and made basic by the addition of 50% NaOH. The reaction mixture was extracted with EtOAc, washed with brine, dried over MgSO4 and concentrated in vacuo to give a colorless foam which was recrystallized from CH3OH/EtOAc to give 0.19 g (19%) of (3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,4a,9,9a-hexahydro-1H-carbazol-3-amine as a colorless as a mixture of cis and trans isomers: mp 217.0-219.3° C.; MS m/z 343.2 (M++H).

reactant | sodium cyanoborohydride | 14.48 mmol, 0.91 g | C(#N)[BH3-].[Na+]
reactant | (3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-3-amine | 2.99 mmol, 1.02 g | CN1C2=CC=C(C=C2C=2C[C@@H](CCC12)N)S(=O)(=O)C1=CC=CC=C1 | C19H20N2O2S
reactant | NaOH | [OH-].[Na+]
solvent | CH3OH | 3.0 mL | CO | CH4O
solvent | TFA | 7.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | 40 mL | O | H2O
product | (3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,4a,9,9a-hexahydro-1H-carbazol-3-amine | 0.19 g, 19% | CN1C2=CC=C(C=C2C2C[C@@H](CCC12)N)S(=O)(=O)C1=CC=CC=C1 | C19H22N2O2S
